US04889854
66.95 g of thieno[2,3-d]pyridazine-7(6H)-thione are suspended in 3200 ml of methylene chloride under argon, whereupon 102.7 g of α-bromophenylacetyl chloride are added dropwise thereto. The mixture is stirred at room temperature for about 30 minutes and then 121 ml of triethylamine are added dropwise thereto, whereby the mixture is cooled to 25°-30°. It is stirred for about 40 minutes. After evaporation of the solvent in vacuo, the residue is taken up in 1000 ml of water and 200 ml of ether, whereupon the mixture is stirred for about 30 minutes. The separated crystals are removed by filtration under suction, washed with water and ether and dried overnight. The dried crystals are again triturated with 1000 ml of water. After suction filtration, the red-violet crystals are washed with water and dried in vacuo. There is obtained 3-hydroxy-2-phenylthiazolo[3,2-b]thieno[2,3-d]-pyridazin-4-ium hydroxide (internal salt) of m.p. 260°-264° (decomposition).

reactant | thieno[2,3-d]pyridazine-7(6H)-thione | 66.95 g | S1C=CC2=C1C(NN=C2)=S | C6H4N2S2
reactant | α-bromophenylacetyl chloride | 102.7 g | BrC(C(=O)Cl)C1=CC=CC=C1 | C8H6BrClO
reactant | triethylamine | 121 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3200 ml | C(Cl)Cl | CH2Cl2
product | 3-hydroxy-2-phenylthiazolo[3,2-b]thieno[2,3-d]-pyridazin-4-ium hydroxide | [OH-].OC1=C(SC=2[N+]1=NC=C1C2SC=C1)C1=CC=CC=C1 | InChI=1S/C14H8N2OS2.H2O/c17-13-11(9-4-2-1-3-5-9)19-14-12-10(6-7-18-12)8-15-16(13)14;/h1-8H;1H2
